US05145860
2-tert-Butyloxycarbonylamino-2-methylpropiononitrile (80.00 g) in Benzene (700 ml) was stirred at 0° C., and saturated with hydrogen sulfide. To the reaction mixture was dropped triethyl amine (1000 ml) and bubbled hydrogen sulfide at ambient temperature for 9 hours, and left at the same temperature for 19 hours. The reaction mixture was added to water and extracted with ethyl acetate. The organic layer was washed with water, saturated aqueous sodium hydrogencarbonate, water and brine, and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo. The residue was washed with n-hexane, to give 2-tert-butyloxycarbonylamino-2-methylpropanethioamide (80.14 g).

reactant | 2-tert-Butyloxycarbonylamino-2-methylpropiononitrile | 80.00 g | C(C)(C)(C)OC(=O)NC(C#N)(C)C | C9H16N2O2
reactant | hydrogen sulfide | S | H2S
reactant | triethyl amine | 1000 ml | C(C)N(CC)CC | C6H15N
solvent | Benzene | 700 ml | C1=CC=CC=C1 | C6H6
product | 2-tert-butyloxycarbonylamino-2-methylpropanethioamide | 80.14 g | C(C)(C)(C)OC(=O)NC(C(N)=S)(C)C | C9H18N2O2S
